US07842694B2
3-Hydroxy-5-[(1-methylethyl)oxy]-N-(3-methyl-1,2,4-thiadiazol-5-yl)benzamide
A solution of 3-[(1-methylethyl)oxy]-N-(3-methyl-1,2,4-thiadiazol-5-yl)-5-[(phenylmethyl)oxy]benzamide (33 g, 86 mmol), trifluoroacetic acid (160 mL) and thioanisole (50.5 mL) was stirred at ambient temperature for 48 hours. The TFA was removed in vacuo and the residue poured into saturated sodium bicarbonate solution (300 mL) and extracted into ethyl acetate (twice). The combined organic extracts were washed with brine, dried (MgSO4), filtered and the solvent removed in vacuo. The residue was triturated with DCM and washed with 5% ethyl acetate in isohexane to give the desired compound (12.8 g). 1H NMR δ (d6-DMSO): 1.31 (d, 6H), 2.51 (s, 3H), 4.67 (sept, 1H), 6.58 (s, 1H), 7.08 (s, 1H), 7.24 (s, 1H), 9.88 (s, 1H), 13.25 (brs, 1H). m/z 294 (M+H)+

reactant | 3-[(1-methylethyl)oxy]-N-(3-methyl-1,2,4-thiadiazol-5-yl)-5-[(phenylmethyl)oxy]benzamide | 86 mmol, 33 g | CC(C)OC=1C=C(C(=O)NC2=NC(=NS2)C)C=C(C1)OCC1=CC=CC=C1 | C20H21N3O3S
reactant | thioanisole | 50.5 mL | C1(=CC=CC=C1)SC | C7H8S
solvent | trifluoroacetic acid | 160 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-Hydroxy-5-[(1-methylethyl)oxy]-N-(3-methyl-1,2,4-thiadiazol-5-yl)benzamide | 12.8 g | OC=1C=C(C(=O)NC2=NC(=NS2)C)C=C(C1)OC(C)C | C13H15N3O3S
